data/oMe_Silver.jsonl
{"reaction_id": "NR-138_1-C1CCCCC1_2-c1ccc(OC)cc1_3-c1cnccc1_4-C(F)(F)F_5-C1C2CC3CC1CC(C2)C3_6-C","name": "Mannich Reaction","level": "medium","reactants_smiles": ["C(C(=O)C1CCCCC1)(c1ccc(OC)cc1)(c1cnccc1)","C(=O)(C(F)(F)F)(C1C2CC3CC1CC(C2)C3)","NC"],"products_smiles": ["C(C(=O)C1CCCCC1)(c1ccc(OC)cc1)(c1cnccc1)C(C(F)(F)F)(C1C2CC3CC1CC(C2)C3)NC"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=[OH+])C1CCCCC1)(c1ccc(OC)cc1)","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbonyl carbon via inductive and resonance effects, facilitating subsequent enolization."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cnccc1)(c1ccc(OC)cc1)=C(O)C1CCCCC1","rationale": "Proton transfer to the α-carbon promotes enol formation, stabilized by resonance between the α-carbon and the protonated carbonyl."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=[OH+])C1CCCCC1)(c1ccc(OC)cc1)(c1cnccc1)C(C(F)(F)F)(C1C2CC3CC1CC(C2)C3)NC","rationale": "The nucleophilic enol attacks the electrophilic iminium carbon, favored by conjugation and the strong electron-withdrawing effect of the protonated nitrogen."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=O)C1CCCCC1)(c1ccc(OC)cc1)(c1cnccc1)C(C(F)(F)F)(C1C2CC3CC1CC(C2)C3)NC","rationale": "Deprotonation restores neutrality, yielding the stable β-amino carbonyl product under thermodynamically favorable conditions."}],"description": "Under acidic conditions, the carbonyl group is activated toward nucleophilic attack via protonation, enabling enolization of the ketone. The enol then attacks the iminium ion formed from the aldehyde and amine, yielding the β-amino carbonyl product after deprotonation."}
{"reaction_id": "NR-134_1-C(F)(F)F_2-c1ccc(C(F)(F)F)cc1","name": "Lombardo Methylenation","level": "medium","reactants_smiles": ["C(=O)(C(F)(F)F)(c1ccc(C(F)(F)F)cc1)","C(Br)Br","[Zn]","Cl[Ti](Cl)(Cl)Cl"],"products_smiles": ["C(=C)(C(F)(F)F)(c1ccc(C(F)(F)F)cc1)"],"conditions": "CH2Br2, Zn, TiCl4","mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "BrC[Zn]Br","rationale": "Zn inserts into the C–Br bond of CH2Br2 via oxidative addition due to the polarizable C–Br bond and Zn’s reducing ability, forming an organozinc intermediate."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "Br[Zn]C[Zn]Br","rationale": "A second oxidative addition to CH2Br2 occurs because Zn can further activate the methylene carbon, producing a geminal bis(zinc) species with enhanced nucleophilicity."},{"step": 3,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "Br[Zn]C[Ti](Cl)(Cl)Cl","rationale": "The organozinc transfers the methylene fragment to TiCl4 via electrophilic substitution, favored by Ti’s strong Lewis acidity and the good leaving ability of Zn–Br."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(O[Ti](Cl)(Cl)Cl)(C(F)(F)F)(c1ccc(C(F)(F)F)cc1)C[Zn]Br","rationale": "The titanium–carbene species adds nucleophilically to the carbonyl carbon, driven by the electrophilicity of the carbonyl and stabilization of the alkoxide by Ti coordination."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C)(C(F)(F)F)(c1ccc(C(F)(F)F)cc1)","rationale": "Elimination occurs as the alkoxide–Ti complex collapses, expelling Ti–O and forming the C=C bond, driven by the thermodynamic stability of the alkene."}],"description": "In the Lombardo methylenation, Zn activates CH2Br2 to form a zinc carbenoid, which is then transferred to TiCl4 to generate a titanium–carbene species. This electrophilic carbene adds to the carbonyl, and elimination yields the alkene."}
